US06852731B2
N-{4-[1-hydroxy-2-(methylamino)ethyl]phenyl}acetamide
To a solution of N-[4-(2-bromo-1-hydroxyethyl)phenyl]acetamide (0.40 g, in 10 mL of methanol) was introduced methylamine (10 mL, 2.0 M in methanol) at 0° C. The reaction mixture was warmed to room temperature after 30 minutes, and stirred at that temperature for 2 hours. The solvent and excess methylamine was evaporated. The residue was dissolved in methanol (5 mL) and stirred with resin (BioRad 50W×2, 0.5 g) overnight. The resin was collected by filtration, washed with methanol. The product on the resin was washed off with NH4OH/CH3OH (10% NH4OH aqueous solution (Aldrich, 29.4% NH3) in methanol, v/v). The solution was concentrated to give the title compound as a white solid (0.16 g).

reactant | N-[4-(2-bromo-1-hydroxyethyl)phenyl]acetamide | 10 mL, 0.40 g | BrCC(O)C1=CC=C(C=C1)NC(C)=O | C10H12BrNO2
reactant | methylamine | 2.0 M, 10 mL | CN | CH5N
product | N-{4-[1-hydroxy-2-(methylamino)ethyl]phenyl}acetamide | 0.16 g | OC(CNC)C1=CC=C(C=C1)NC(C)=O | C11H16N2O2
